** sch_path: /foss/designs/PhaseInterpolator/tb_inv.sch
**.subckt tb_inv
x1 VDD Vout Vin GND inv
Vdd VDD GND 1.2
C1 Vout GND 5f m=1
Vin2 Vin GND dc 0 ac 0 pulse(0, 1.2, 0, 25p, 25p, 225p, 500p )
**** begin user architecture code

.lib cornerMOSlv.lib mos_tt


.inc /foss/designs/PhaseInterpolator/Custom_std_cells/inv.spice



.param temp=27
.control
save all
tran 0.5p 3n

write tran_logic_not.raw
.endc


**** end user architecture code
**.ends
.GLOBAL GND
.end
