** sch_path: /foss/designs/PhaseInterpolator/8xPI_top/tb_linearity_8xPI_top.sch
**.subckt tb_linearity_8xPI_top
Vin3 vinI GND dc 0 ac 0 pulse(0, 1.2, 0, 25p, 25p, 225p, 500p)
Vin4 vinQ GND dc 0 ac 0 pulse(0, 1.2, 125p, 25p, 25p, 225p, 500p )
Vin5 vinIB GND dc 0 ac 0 pulse(0, 1.2, 250p, 25p, 25p, 225p, 500p )
Vin6 vinQB GND dc 0 ac 0 pulse(0, 1.2, 375p, 25p, 25p, 225p, 500p )
x4 VDD vinI VoutI1 VoutQ1 vinQ vinIB VoutIB1 vinQB VoutQB1 VSS 4to4
Vdd4 VDD VSS 1.2
Vdd1 v1 VSS dc 0 ac 0 pulse(0, 1.2, 40n, 25p, 25p, 40n, 80n)
Vdd2 v0 VSS dc 0 ac 0 pulse(0, 1.2, 20n, 25p, 25p, 40n, 80n)
Vdd3 VSS GND 0
x1 VoutI1 VoutIB1 VoutQ1 VoutQB1 v1 v0 vXOR v6_st v5_st v4_st v3_st v2_st v1_st v0_st Vout VDD VSS 8xPI
C1 Vout VSS 25f m=1
x2 VoutI2 VoutIB2 VoutQ2 VoutQB2 VSS VSS VSS VSS VSS VSS VSS VSS VSS VSS Vout8I VDD VSS 8xPI
C2 Vout8I VSS 25f m=1
Vdd5 v1_st VSS dc 0 ac 0 pulse(0, 1.2, 15n, 25p, 25p, 5n, 20n)
Vdd6 v0_st VSS dc 0 ac 0 pulse(0, 1.2, 17.5n, 25p, 25p, 2.5n, 20n)
Vdd7 v3_st VSS dc 0 ac 0 pulse(0, 1.2, 10n, 25p, 25p, 10n, 20n)
Vdd8 v2_st VSS dc 0 ac 0 pulse(0, 1.2, 12.5n, 25p, 25p, 7.5n, 20n)
Vdd9 v5_st VSS dc 0 ac 0 pulse(0, 1.2, 5n, 25p, 25p, 15n, 20n)
Vdd10 v4_st VSS dc 0 ac 0 pulse(0, 1.2, 7.5n, 25p, 25p, 12.5n, 20n)
Vdd11 v6_st VSS dc 0 ac 0 pulse(0, 1.2, 2.5n, 25p, 25p, 17.5n, 20n)
x3 VDD vinI VoutI2 VoutQ2 vinQ vinIB VoutIB2 vinQB VoutQB2 VSS 4to4
Vdd12 vXOR VSS dc 0 ac 0 pulse(0, 1.2, 20n, 25p, 25p, 20n, 40n)
**** begin user architecture code



* Circuit Parameters
.param vdd = 1.2
.param vss = 0.0
.param a=0
.param b=0
.param c=0
.param d=1
.param Tclk = 500P
.options TEMP = 27.0

* Include Models
*.lib /opt/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
*.lib /opt/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib mos_tt
*.lib /opt/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib hbt_typ
*.lib /opt/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_typ
.lib cornerMOSlv.lib mos_tt


* OP Parameters & Singals to save
.save all

*Simulations
.control
set output_path = tb_linearity_8xpi/
	tran 5PS 80NS
	*setplot tran1
	*plot v0 v1+1.5 v0_st+3 v6_st+4.5 Vout+6 Vout8I+7.5 ylabel vout xlabel vin
	set filetype = ascii
	write {$output_path}tran_linearity_termoless.raw V(Vout) V(Vout8I) V(vinI) V(VoutI1) V(VoutI2) V(VoutQ1) V(VoutIB1) V(VoutQB1)
.endc
.end

**** end user architecture code
**.ends

* expanding   symbol:  4to4.sym # of pins=10
** sym_path: /foss/designs/PhaseInterpolator/4to4.sym
** sch_path: /foss/designs/PhaseInterpolator/4to4.sch
.subckt 4to4 VDD VINI VOUTI VOUTQ VINQ VINIB VOUTIB VINQB VOUTQB VSS
*.iopin VDD
*.iopin VSS
*.ipin VINI
*.ipin VINQ
*.ipin VINIB
*.ipin VINQB
*.opin VOUTI
*.opin VOUTQ
*.opin VOUTIB
*.opin VOUTQB
x0[7] VDD net4[7] VINI VSS inv
x0[6] VDD net4[6] VINI VSS inv
x0[5] VDD net4[5] VINI VSS inv
x0[4] VDD net4[4] VINI VSS inv
x0[3] VDD net4[3] VINI VSS inv
x0[2] VDD net4[2] VINI VSS inv
x0[1] VDD net4[1] VINI VSS inv
x0[0] VDD net4[0] VINI VSS inv
x1[7] VDD net3[7] VINQ VSS inv
x1[6] VDD net3[6] VINQ VSS inv
x1[5] VDD net3[5] VINQ VSS inv
x1[4] VDD net3[4] VINQ VSS inv
x1[3] VDD net3[3] VINQ VSS inv
x1[2] VDD net3[2] VINQ VSS inv
x1[1] VDD net3[1] VINQ VSS inv
x1[0] VDD net3[0] VINQ VSS inv
x2[7] VDD net1[7] VINIB VSS inv
x2[6] VDD net1[6] VINIB VSS inv
x2[5] VDD net1[5] VINIB VSS inv
x2[4] VDD net1[4] VINIB VSS inv
x2[3] VDD net1[3] VINIB VSS inv
x2[2] VDD net1[2] VINIB VSS inv
x2[1] VDD net1[1] VINIB VSS inv
x2[0] VDD net1[0] VINIB VSS inv
x3[7] VDD net2[7] VINQB VSS inv
x3[6] VDD net2[6] VINQB VSS inv
x3[5] VDD net2[5] VINQB VSS inv
x3[4] VDD net2[4] VINQB VSS inv
x3[3] VDD net2[3] VINQB VSS inv
x3[2] VDD net2[2] VINQB VSS inv
x3[1] VDD net2[1] VINQB VSS inv
x3[0] VDD net2[0] VINQB VSS inv
x4[15] VDD VOUTI net4[7] VSS inv
x4[14] VDD VOUTI net4[6] VSS inv
x4[13] VDD VOUTI net4[5] VSS inv
x4[12] VDD VOUTI net4[4] VSS inv
x4[11] VDD VOUTI net4[3] VSS inv
x4[10] VDD VOUTI net4[2] VSS inv
x4[9] VDD VOUTI net4[1] VSS inv
x4[8] VDD VOUTI net4[0] VSS inv
x4[7] VDD VOUTI net4[7] VSS inv
x4[6] VDD VOUTI net4[6] VSS inv
x4[5] VDD VOUTI net4[5] VSS inv
x4[4] VDD VOUTI net4[4] VSS inv
x4[3] VDD VOUTI net4[3] VSS inv
x4[2] VDD VOUTI net4[2] VSS inv
x4[1] VDD VOUTI net4[1] VSS inv
x4[0] VDD VOUTI net4[0] VSS inv
x5[15] VDD VOUTQ net3[7] VSS inv
x5[14] VDD VOUTQ net3[6] VSS inv
x5[13] VDD VOUTQ net3[5] VSS inv
x5[12] VDD VOUTQ net3[4] VSS inv
x5[11] VDD VOUTQ net3[3] VSS inv
x5[10] VDD VOUTQ net3[2] VSS inv
x5[9] VDD VOUTQ net3[1] VSS inv
x5[8] VDD VOUTQ net3[0] VSS inv
x5[7] VDD VOUTQ net3[7] VSS inv
x5[6] VDD VOUTQ net3[6] VSS inv
x5[5] VDD VOUTQ net3[5] VSS inv
x5[4] VDD VOUTQ net3[4] VSS inv
x5[3] VDD VOUTQ net3[3] VSS inv
x5[2] VDD VOUTQ net3[2] VSS inv
x5[1] VDD VOUTQ net3[1] VSS inv
x5[0] VDD VOUTQ net3[0] VSS inv
x6[15] VDD VOUTIB net1[7] VSS inv
x6[14] VDD VOUTIB net1[6] VSS inv
x6[13] VDD VOUTIB net1[5] VSS inv
x6[12] VDD VOUTIB net1[4] VSS inv
x6[11] VDD VOUTIB net1[3] VSS inv
x6[10] VDD VOUTIB net1[2] VSS inv
x6[9] VDD VOUTIB net1[1] VSS inv
x6[8] VDD VOUTIB net1[0] VSS inv
x6[7] VDD VOUTIB net1[7] VSS inv
x6[6] VDD VOUTIB net1[6] VSS inv
x6[5] VDD VOUTIB net1[5] VSS inv
x6[4] VDD VOUTIB net1[4] VSS inv
x6[3] VDD VOUTIB net1[3] VSS inv
x6[2] VDD VOUTIB net1[2] VSS inv
x6[1] VDD VOUTIB net1[1] VSS inv
x6[0] VDD VOUTIB net1[0] VSS inv
x7[15] VDD VOUTQB net2[7] VSS inv
x7[14] VDD VOUTQB net2[6] VSS inv
x7[13] VDD VOUTQB net2[5] VSS inv
x7[12] VDD VOUTQB net2[4] VSS inv
x7[11] VDD VOUTQB net2[3] VSS inv
x7[10] VDD VOUTQB net2[2] VSS inv
x7[9] VDD VOUTQB net2[1] VSS inv
x7[8] VDD VOUTQB net2[0] VSS inv
x7[7] VDD VOUTQB net2[7] VSS inv
x7[6] VDD VOUTQB net2[6] VSS inv
x7[5] VDD VOUTQB net2[5] VSS inv
x7[4] VDD VOUTQB net2[4] VSS inv
x7[3] VDD VOUTQB net2[3] VSS inv
x7[2] VDD VOUTQB net2[2] VSS inv
x7[1] VDD VOUTQB net2[1] VSS inv
x7[0] VDD VOUTQB net2[0] VSS inv
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/8xPI/8xPI.sym # of pins=9
** sym_path: /foss/designs/PhaseInterpolator/8xPI/8xPI.sym
** sch_path: /foss/designs/PhaseInterpolator/8xPI/8xPI.sch
.subckt 8xPI VINI VINIB VINQ VINQB VS[1] VS[0] VST[7] VST[6] VST[5] VST[4] VST[3] VST[2] VST[1] VST[0] VOUT VDD VSS
*.ipin VINI
*.ipin VINQ
*.ipin VINIB
*.ipin VINQB
*.iopin VDD
*.iopin VSS
*.opin VOUT
*.ipin VS[1],VS[0]
*.ipin VST[7],VST[6],VST[5],VST[4],VST[3],VST[2],VST[1],VST[0]
x1[7] VINI VINIB VDD net1 VS[1] VS[0] VINQ VSS VINQB VST[7] MUX_4_1
x1[6] VINI VINIB VDD net1 VS[1] VS[0] VINQ VSS VINQB VST[6] MUX_4_1
x1[5] VINI VINIB VDD net1 VS[1] VS[0] VINQ VSS VINQB VST[5] MUX_4_1
x1[4] VINI VINIB VDD net1 VS[1] VS[0] VINQ VSS VINQB VST[4] MUX_4_1
x1[3] VINI VINIB VDD net1 VS[1] VS[0] VINQ VSS VINQB VST[3] MUX_4_1
x1[2] VINI VINIB VDD net1 VS[1] VS[0] VINQ VSS VINQB VST[2] MUX_4_1
x1[1] VINI VINIB VDD net1 VS[1] VS[0] VINQ VSS VINQB VST[1] MUX_4_1
x1[0] VINI VINIB VDD net1 VS[1] VS[0] VINQ VSS VINQB VST[0] MUX_4_1
x2 VDD net2 net1 VSS inv
x3[1] VDD net3[1] net2 VSS inv
x3[0] VDD net3[0] net2 VSS inv
x4[3] VDD net4[3] net3[1] VSS inv
x4[2] VDD net4[2] net3[0] VSS inv
x4[1] VDD net4[1] net3[1] VSS inv
x4[0] VDD net4[0] net3[0] VSS inv
x5[7] VDD VOUT net4[3] VSS inv
x5[6] VDD VOUT net4[2] VSS inv
x5[5] VDD VOUT net4[1] VSS inv
x5[4] VDD VOUT net4[0] VSS inv
x5[3] VDD VOUT net4[3] VSS inv
x5[2] VDD VOUT net4[2] VSS inv
x5[1] VDD VOUT net4[1] VSS inv
x5[0] VDD VOUT net4[0] VSS inv
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/inv.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv.sch
.subckt inv VDD VOUT VIN VSS
*.iopin VDD
*.iopin VSS
*.opin VOUT
*.ipin VIN
XM2 VOUT VIN VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=3
XM1 VOUT VIN VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=2
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/MUX_4_1.sym # of pins=9
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/MUX_4_1.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/MUX_4_1.sch
.subckt MUX_4_1 VINA VINB VDD VOUT VS[1] VS[0] VINC VSS VIND VST
*.opin VOUT
*.iopin VDD
*.iopin VSS
*.ipin VINA
*.ipin VINB
*.ipin VINC
*.ipin VIND
*.ipin VS[1],VS[0]
*.ipin VST
x3 VDD VINC net2 VS[1] VIND VSS MUX_2_1
x4 VDD VINA net1 VS[0] VINB VSS MUX_2_1
x5 VDD net1 VOUT VST net2 VSS MUX_2_1
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/MUX_2_1.sym # of pins=6
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/MUX_2_1.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/MUX_2_1.sch
.subckt MUX_2_1 VDD VINA VOUT VS VINB VSS
*.opin VOUT
*.ipin VINA
*.ipin VINB
*.ipin VS
*.iopin VDD
*.iopin VSS
x1 VOUT net1 VS net2 VDD VSS tg_custom
x2 VOUT VS net1 net3 VDD VSS tg_custom
x3 VDD net1 VS VSS inv
x4 VDD net2 VINA VSS inv
x5 VDD net3 VINB VSS inv
x6[3] VOUT VSS VDD net2 VDD VSS tg_custom
x6[2] VOUT VSS VDD net2 VDD VSS tg_custom
x6[1] VOUT VSS VDD net2 VDD VSS tg_custom
x6[0] VOUT VSS VDD net2 VDD VSS tg_custom
x7[3] VOUT VSS VDD net3 VDD VSS tg_custom
x7[2] VOUT VSS VDD net3 VDD VSS tg_custom
x7[1] VOUT VSS VDD net3 VDD VSS tg_custom
x7[0] VOUT VSS VDD net3 VDD VSS tg_custom
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/tg_custom.sym # of pins=6
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/tg_custom.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/tg_custom.sch
.subckt tg_custom VOUT VSN VSP VIN VBP VBN
*.iopin VIN
*.iopin VSN
*.iopin VOUT
*.iopin VSP
*.iopin VBN
*.iopin VBP
XM1 VOUT VSN VIN VBN sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XM2 VOUT VSP VIN VBP sg13_lv_pmos w=0.15u l=0.13u ng=1 m=2
.ends

.GLOBAL GND
.end
